* C:\Users\Caliphax\Documents\ltspice\RF_AMP_2078_V306.asc
V10 N047 0 SINE(0 12 14000000) AC 4 Rser=1
V11 N074 0 4.2 Rser=0
M3 N036 N039 N043 N043 IRF530
R30 N043 0 .1
Q3 N054 N066 N069 0 2N3904
V6 N040 0 9 Rser=0
C18 N066 N055 100n
R36 N054 N066 3.3k
R37 N066 0 510
R38 N071 0 10
C20 N071 0 10n
L8 N054 N046 4µH
L9 0 N044 .25µH
R40 N069 N071 .1
V8 N055 0 SINE(0 .03 14000000) AC .014
R41 N044 0 1.5
R42 N046 N054 200
R39 N040 N046 20
Q4 N059 N067 N070 0 ZTX849
V9 N041 0 13.8 Rser=0
C21 N067 N056 100n
R43 N058 N067 510
R44 N067 0 18
R45 N072 0 5.1
C22 N072 0 20n
L10 N059 N052 107.8µH
L11 N060 N045 19.8µH
R46 N070 N072 .1
V13 N056 0 SINE(0 .0 14000000) AC .03
R49 N041 N052 .1
C23 N059 N058 10n
R48 N057 N067 56
R50 N053 N057 56
C24 N057 0 10n
V14 N053 0 9 Rser=0
L1 0 N047 5µH
L2 N064 N048 .3125µH
R1 N048 0 20
R2 0 N064 20
M1 N063 N068 N073 N073 IRF530
R3 N073 0 .1
L3 N049 0 5µH
L4 N037 N063 .3125µH
R4 N049 0 50
C2 N034 N048 .01µF
C3 N061 N064 .01µF
R5 N068 N061 5.6
C4 N068 N061 .01µF
R6 N039 N034 5.6
C5 N039 N034 .01µF
R7 N063 N062 220
C6 N062 N061 .01µF
R8 N036 N035 220
C7 N035 N034 .01µF
L5 N036 N037 .3125µH
C1 N036 N063 200pF
V1 N042 0 4.2 Rser=0
V2 N037 0 13.8 Rser=0
L6 N061 N074 220µH
L7 N034 N042 220µH
C8 0 N037 .2µF
C10 N037 0 1000µ
Q1 N016 N026 N028 0 2N3904
V3 N006 0 9 Rser=0
C9 N026 N017 100n
R10 N016 N026 3.3k
R11 N026 0 510
R12 N031 0 10
C11 N031 0 10n
L12 N016 N013 5µH
L13 0 N010 .3125µH
R13 N028 N031 .1
V4 N017 0 SINE(0 .02 14000000) AC .014
R15 N013 N016 200
R16 N006 N013 20
Q2 N020 N027 N029 0 2SC5706
V5 N007 0 13.8 Rser=0
C12 N027 N010 100n
R17 N019 N027 510
R18 N027 0 220
R19 N032 0 5.1
C13 N032 0 20n
L14 N020 N014 35.2µH
L15 N024 N011 2.2µH
R20 N029 N032 .1
R21 N007 N014 .1
C14 N020 N019 10n
R22 N018 N027 560
R23 N015 N018 560
C15 N018 0 100n
V12 N015 0 9 Rser=0
V7 N033 0 4.2 Rser=0
M2 N003 N005 N009 N009 IRF530
R14 N009 0 .1
R25 N011 0 20
R26 0 N024 20
M4 N023 N025 N030 N030 IRF530
R27 N030 0 .1
L18 N012 0 5µH
L19 N004 N023 .3125µH
R28 N012 0 50
C16 N001 N011 .01µF
C17 N021 N024 .01µF
R29 N025 N021 5.6
C19 N025 N021 .01µF
R31 N005 N001 5.6
C25 N005 N001 .01µF
R32 N023 N022 220
C26 N022 N021 .01µF
R33 N003 N002 220
C27 N002 N001 .01µF
L20 N003 N004 .3125µH
C28 N003 N023 470pF
V15 N008 0 4.2 Rser=0
V16 N004 0 13.8 Rser=0
L21 N021 N033 220µH
L22 N001 N008 220µH
C29 0 N004 .2µF
C30 N004 0 1000µ
R24 N045 0 20
R34 0 N060 20
L16 N051 0 5µH
L17 N038 N065 .3125µH
R35 N051 0 50
L23 N050 N038 .3125µH
V17 N038 0 13.8 Rser=0
C32 0 N038 .2µF
C33 N038 0 1000µ
V18 N050 0 SINE(0 12 14000000 0 0 0 0) AC 4 0 Rser=1
V19 N065 0 SINE(0 12 14000000 0 0 0 0) AC 4 180 Rser=1
L24 N004 N004 5µH
.model NPN NPN
.model PNP PNP
.lib C:\Users\Caliphax\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Caliphax\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 .0000022 .0000018
K40 L8 L9 1
* 4:1
K46 L10 L11 1
* 4:1
K1 L1 L2 1
* 4:1
K2 L3 L4 L5 1
* 4:1
.lib 2SC5706-SPICE-D.LIB
;ac dec 101 1Meg 20Meg
K57 L12 L13 1
* 4:1
K56 L14 L15 1
* 4:1
K57 L18 L19 L20 1
* 4:1
K22 L23 L17 L16 1
* 4:1
.lib ZTX849-SPICE-D.LIB
.backanno
.end
